US03998951
4-Chloro-2-(3-chlorophenyl)quinazoline
A mixture of 5.5 g of 2-(3-chlorophenyl)quinazolin-4(3H)-one and 40 ml of thionyl chloride was treated as described in Example I with 1.57 g of dimethylformamide to give, after recrystallization from cyclohexane, 4.4 g of white 4-chloro-2-(3-chlorophenyl)quinazoline, m.p. 157°-158.5°.

reactant | 2-(3-chlorophenyl)quinazolin-4(3H)-one | 5.5 g | ClC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(N1)=O | C14H9ClN2O
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 1.57 g | CN(C=O)C | C3H7NO
product | 4-Chloro-2-(3-chlorophenyl)quinazoline | ClC1=NC(=NC2=CC=CC=C12)C1=CC(=CC=C1)Cl | C14H8Cl2N2
